US04384122
59 g of oxalic acid monoethylester, 179 g of phenyl isocyanate and 0.2 g of triethylene diamine are introduced into 240 g of N-methylpyrrolidone. The mixture is then heated with stirring to 80° C. for 4 hours and then further heated for 2 hours at 100° C. and for 2 hours at 120° C. Condensation and subsequent cyclization take place with carbon dioxide and ethanol splitting off. The reaction product is precipitated with water and the precipitation is stirred with methanol for separating N-phenyl carbamic acidethylester. 102 g (78% of the theoretical yield) of 1,3-diphenylimidazolidine -2,4,5-trione with a melting point of from 190° to 197° C. is obtained as a residue after filtering with suction. The material is taken up in acetonitrile for purification, is filtered, evaporated and the residue is recrystallised from toluene. The resulting pure compound is obtained as colourless polyhedra with a melting point of from 205° to 206° C. and a characteristic band in the IR spectrum at 1750 cm-1.

reactant | oxalic acid monoethylester | 59 g | C(C)OC(C(=O)O)=O | C4H6O4
reactant | phenyl isocyanate | 179 g | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | triethylene diamine | 0.2 g | C1CN2CCN1CC2 | C6H12N2
reactant | carbon dioxide | C(=O)=O | CO2
reactant | N-methylpyrrolidone | 240 g | CN1C(CCC1)=O | C5H9NO
solvent | ethanol | C(C)O | C2H6O
product | 1,3-diphenylimidazolidine -2,4,5-trione | C1(=CC=CC=C1)N1C(N(C(C1=O)=O)C1=CC=CC=C1)=O | C15H10N2O3
